US08258130B2
A mixture of 3-methyl-pyrrolo[2,3-c]pyridin-1-yl amine (467 mg, 3.18 mmol), 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (683 g, 3.18 mmol), HATU (1.45 g, 3.81 mmol), DIPEA (1.23 g 9.54 mmol) in DMF (10 mL) is stirred at 1500 C. for 1 h. The reaction is quenched with water, and NaHCO3 (320 mg, 3.81 mmol) and EtOAC are added. The resulting solid is collected by filtration and then triturated with hot water. The mixture is filtered again and the solid is dried under vacuum to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (3-methyl-pyrrolo[2,3-c]pyridin-1-yl)-amide (484 mg). MS: 345 (M+H); 1H NMR (300 MHz, CD3OD): δ 9.24 (s, 1H), 8.79 (d, 2H), 8.65 (d, 1H), 8.21 (d, 1H), 8.05 (t, 1H), 7.72 (d, 1H), 7.60 (s, 1H), 7.57 (s, 1H), 2.88 (s, 3H), 2.40 (s, 3H).

reactant | 3-methyl-pyrrolo[2,3-c]pyridin-1-yl amine | 3.18 mmol, 467 mg | CC1=CN(C2=CN=CC=C21)N | C8H9N3
reactant | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid | 3.18 mmol, 683 g | CC1=NC(=NC=C1C(=O)O)C1=NC=CC=C1 | C11H9N3O2
reactant | HATU | 3.81 mmol, 1.45 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 9.54 mmol, 1.23 g | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | 3.81 mmol, 320 mg | C(=O)(O)[O-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (3-methyl-pyrrolo[2,3-c]pyridin-1-yl)-amide | 484 mg | CC1=CN(C2=CN=CC=C21)NC(=O)C=2C(=NC(=NC2)C2=NC=CC=C2)C | C19H16N6O
